US07348359B2
G. 3-[4-(2-butoxy-3,5-diisopropyl-phenyl)-1H-indol-2-yl]-but-2-enoic acid
3-[1-Benzenesulfonyl-4-(2-butoxy-3,5-diisopropyl-phenyl)-1H-indol-2-yl]-but-2-enoic acid (32 mg, 0.056 mmol) was dissolved in ethanol (1 mL)/dioxane (1 mL) and treated with 2.5N KOH (1 mL, 1 mmol) at 70-75° C. for 24 h. The reaction was neutralized with 1N HCl and extracted with ethyl acetate (3×10 mL). The organic portions were washed with water (10 mL), brine (10 mL), dried over MgSO4, filtered and evaporated in vacuo to provide 25 mg of a residue. The material was purified using radial chromatography with a gradient of hexane/ethyl acetate to provide 13 mg (53%) of a yellow amorphous foam. 1H NMR (250 MHz, CDCl3): δ 8.26 (bs, 1H), 7.26-7.15 (m, 3H), 7.06 (m, 2H), 6.83 (s, 1H), 6.11 (s, 1H), 3.37 (m, 1H), 3.22 (t, 2H, J=6.3), 2.86 (m, 1H), 2.55 (s, 3H), 1.23 (m, 14H), 0.95 (m, 2H), 0.54 (t, 3H, J=7.2). MS [EI+] 434, (M+H)+, [EI−] 432 (M−H)+.

reactant | 3-[1-Benzenesulfonyl-4-(2-butoxy-3,5-diisopropyl-phenyl)-1H-indol-2-yl]-but-2-enoic acid | 0.056 mmol, 32 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=C(C=CC=C12)C1=C(C(=CC(=C1)C(C)C)C(C)C)OCCCC)C(=CC(=O)O)C | C34H39NO5S
reactant | KOH | 1 mmol, 2.5N, 1 mL | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(2-butoxy-3,5-diisopropyl-phenyl)-1H-indol-2-yl]-but-2-enoic acid | 25 mg | C(CCC)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=C2C=C(NC2=CC=C1)C(=CC(=O)O)C | C28H35NO3
